US09371320B2
A) tert-butyl (4-benzyl-2-methoxypyridin-3-yl)carbamate
To a solution of tert-butyl (2-methoxypyridin-3-yl)carbamate (25.1 g) and N,N,N′,N′-tetramethylethane-1,2-diamine (40.6 mL) in diethyl ether (374 mL) was added 1.6M n-butyllithium hexane solution (168 mL) at −78° C., and the mixture was stirred under argon atmosphere at 0° C. for 1 hr. To the reaction mixture was added benzyl bromide (24.9 g) at −78° C., and the mixture was stirred under argon atmosphere at room temperature for 4 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution at room temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/hexane), and crystallized from ethyl acetate and hexane to give the title compound (25.4 g).

reactant | tert-butyl (2-methoxypyridin-3-yl)carbamate | 25.1 g | COC1=NC=CC=C1NC(OC(C)(C)C)=O | C11H16N2O3
reactant | N,N,N′,N′-tetramethylethane-1,2-diamine | 40.6 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium hexane | 1.6M, 168 mL | CCCCCC.C(CCC)[Li]
reactant | benzyl bromide | 24.9 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 374 mL | C(C)OCC | C4H10O
product | tert-butyl (4-benzyl-2-methoxypyridin-3-yl)carbamate | 25.4 g | C(C1=CC=CC=C1)C1=C(C(=NC=C1)OC)NC(OC(C)(C)C)=O | C18H22N2O3
